US05955440
Step 1b: 3-(6-Methyl-2- pyridyl)propanol
3-(6-methyl -2-pyridyl)propyn-1-ol was dissolved in MeOH (100 mL) and PtO2 (0.09 g) was added. The reaction mixture was hydrogenated at 4 atm for 30 min. The catalyst was filtered off and methanol evaporated in vacuo. The orange oily residue (2 g) was purified by column chromatography (silica gel, ethyl acetate) yielding a yellow oil (77%). MS (DCI) (M+H)+ at m/z 152.

reactant | 3-(6-methyl -2-pyridyl)propyn-1-ol | CC1=CC=CC(=N1)CC#CO | C9H9NO
solvent | MeOH | 100 mL | CO | CH4O
catalyst | PtO2 | 0.09 g | O=[Pt]=O
product | 3-(6-Methyl-2- pyridyl)propanol | 77% | CC1=CC=CC(=N1)CCCO | C9H13NO
